US07071182B2
2-[4-(benzyloxy)phenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide
A mixture of Example 1C (42.0 mg, 0.183 mmol), (4-benzyloxy-phenyl)-acetic acid (47.0 mg, 0.194 mmol), ethyldimethylpropylcarbodiimide hydrochloride (43.0 mg, 0.225 mmol), N-hydroxybenzotriazole (30.0 mg, 0.222 mmol), N-methyl morpholine (46.0 mg, 0.455 mmol) in 2 mL of DMF was shaken for 6 hour. The mixture was concentrated under reduced pressure and the residue dissolved in 1.5 mL of a 1:1 mixture of dimethyl sulfoxide/MeOH and purified by preparative reverse-phase HPLC. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.66 (m, 4H), 2.49 (m, 4H), 2.91 (t, 2H, J=6.60), 3.76 (s, 2H), 4.42 (t, 2H, J=6.60), 5.14 (s, 2H), 7.03 (m, 2H), 7.31–7.50 (m, 9H), 7.68 (m, 1H), 8.30 (s, 1H), 10.16 (s, 1H); MS (DCI/NH3) m/z 455 [M+H]+.

reactant | (4-benzyloxy-phenyl)-acetic acid | 0.194 mmol, 47.0 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 0.225 mmol, 43.0 mg | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 0.222 mmol, 30.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 0.455 mmol, 46.0 mg | CN1CCOCC1 | C5H11NO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[4-(benzyloxy)phenyl]-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-4-yl]acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NC1=C2C=NN(C2=CC=C1)CCN1CCCC1 | C28H30N4O2
